US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-benzo[d]imidazole-2-carboxamide
The title compound was prepared using the method of Example 34(d) starting from 1H-benzo[d]imidazole-2-carboxylic acid (100 mg, 0.617 mmol) and (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (161 mg, 0.617 mmol) using N,N-dimethyl formamide as the solvent. The product was purified by flash chromatography and recrystallized from chloroform, respectively. Yield 20.03%. 1H-NMR (400 MHz; CDCl3): δ 1.33 (d, 3H), 4.32 (dd, 1H), 4.47 (dd, 1H), 4.64-4.75 (m, 1H), 6.59 (d, 1H), 7.34-7.41 (m, 2H), 7.50 (d, 1H), 7.52-7.56 (m, 1H), 7.62 (d, 1H), 7.81-7.87 (m, 2H), 8.00 (d, 1H), 8.42 (d, 1H), 10.87 (s, 1H).

reactant | 1H-benzo[d]imidazole-2-carboxylic acid | 0.617 mmol, 100 mg | N1C(=NC2=C1C=CC=C2)C(=O)O | C8H6N2O2
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.617 mmol, 161 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
solvent | N,N-dimethyl formamide | CN(C=O)C | C3H7NO
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-benzo[d]imidazole-2-carboxamide | Yield 20.03% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NC2=C(N1)C=CC=C2 | C21H17ClN6O
